US07470525B2
10.0 g (0.06 mol) of 2-methylcysteinamide hydrochloride as a racemic body was dissolved in 300 ml of water, and the obtained solution was then placed in a 500-ml flask. Thereafter, an aqueous manganese chloride solution was added thereto, such that the concentration of divalent Mn ions became 10 ppm. Thereafter, intact cells corresponding to 1.0 g of dried cells were further added thereto. The mixture was stirred at 40° C. for 24 hours under nitrogen flow, so as to carry out hydrolysis. After completion of the reaction, the cells were removed from the reaction solution by centrifugation to obtain a supernatant. This supernatant was concentrated using a rotary evaporator, and the concentrate was then dissolved in 150 ml of methanol. Subsequently, 200 ml of acetone and 3.6 g (0.03 mol) of sodium carbonate were added thereto, and the mixture was stirred at room temperature for 16 hours, so as to carry out the reaction. Thereafter, the reaction solution was concentrated, and then supplemented with 50 ml of isobutyl alcohol and subjected to reflux conditions for 4 hours so as to extract soluble matters. After cooling, crystals that remained as insoluble matters were separated by filtration. The obtained filtrate was concentrated and dried using a rotary evaporator. The obtained concentrate was washed with 50 ml of hexane and then dried again to obtain 2,2,4-trimethylthiazolidine-4-carboxamide as a white solid. The obtained 2,2,4-trimethylthiazolidine-4-carboxamide was suspended in 100 ml of pure water, and was heated to reflux for 3 hours. Thereafter, the reaction solution was washed with 50 ml of diethyl ether twice. A water layer thereof was concentrated and dried, followed by drying under reduced pressure, to obtain 3.3 g (0.02 mol) of 2-methyl-D-cysteine. The yield of isolation was found to be 84 mol % relative to 2-methyl-D-cysteinamide contained in the racemic body that had been used for the reaction, and was found to be 42 mol % relative to 2-methylcysteinamide as a racemic body. Moreover, this solid was analyzed by liquid chromatography using an optical isomer separation column. As a result, the optical purity thereof was found to be 95% e.e. or more.

reactant | 2-methylcysteinamide hydrochloride | 0.06 mol, 10.0 g | Cl.C[C@](N)(CS)C(=O)N
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | sodium carbonate | 0.03 mol, 3.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 300 ml | O | H2O
catalyst | manganese chloride | [Cl-].[Mn+2].[Cl-]
product | 2,2,4-trimethylthiazolidine-4-carboxamide | CC1(SCC(N1)(C(=O)N)C)C | C7H14N2OS
